Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[O:4])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-3.55376409411
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],4.16986672475
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.85777903421
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.3086808673300006
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.96431460077
[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.86882607884
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[H:9],0.35293434345700003
[H:1][C:2](=[C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16])[H:5].[H:4][C:6]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.9441976729900003
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.3213570530300025
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[O:2],1.51965475693
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:5],1.56708086485
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-5.12537001044
[H:1][C:2]([H:3])=[C:4]=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],3.94033319605
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]=[O:10].[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10],-2.40506436819
[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])[H:12],-4.78920556112
[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-8.148137480239999
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.85671298384
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[O:12][H:13],4.65409930798
[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-1.8808658799
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12],4.96599712313
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[O:7][H:8],5.8799244213
[H:1][O:2][C:3]=[C:8]([H:9])[H:10].[O:4]=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-1.35953454143
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-5.78881588632
[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[H:13].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],1.5110838605
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1],5.01799089412
[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-1.45352703576
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[O:1]1[C:2][C:3]1[H:4],3.58954339312
[H:16].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.57786908044
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][O:4][O:5][H:6]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],0.921375366549
